### PR TITLE
feat(Geometry/Euclidean/Sphere): line or orthogonal radius through two points

### PR DESCRIPTION
**Pull request by Scarlett-le**
feat(Geometry/Euclidean/Sphere): line or orthogonal radius through two points

Define `Sphere.lineOrOrthRadius`, the affine subspace through two points,
or the orthogonal radius (tangent) at that point when they coincide.

Provide the basic API: membership of both endpoints, commutativity, and a
characterization of its intersection with the sphere as exactly the two
endpoints.

Split off from #34164.

### CODE REVIEW

File: Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean [hunk 1]
```diff
@@ -383,6 +384,70 @@ lemma ncard_inter_orthRadius_le_two [hf2 : Fact (Module.finrank ℝ V = 2)]
   · simp [inter_orthRadius_eq_singleton_of_dist_eq_radius h]
   · simp [inter_orthRadius_eq_empty_of_radius_lt_dist h]
 
+open Classical in
+/-- The line through `p` and `q`, or the orthogonal radius (tangent) `s.orthRadius p`
+at `p` when `p = q`. -/
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean:389]: I think the doc string should say something about how this is typically used when the two points lie on `s` (to represent a chord, where the desired limiting case for two equal points is the tangent).

File: Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean [hunk 2]
```diff
@@ -383,6 +384,70 @@ lemma ncard_inter_orthRadius_le_two [hf2 : Fact (Module.finrank ℝ V = 2)]
...
+noncomputable def lineOrOrthRadius (s : Sphere P) (p q : P) : AffineSubspace ℝ P :=
+  if p = q then s.orthRadius p else line[ℝ, p, q]
+
+variable {s : Sphere P} {p q : P}
+
+@[simp]
+lemma lineOrOrthRadius_of_eq (h : p = q) : s.lineOrOrthRadius p q = s.orthRadius p := by
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Sphere/OrthRadius.lean:396]: We don't normally use hypotheses of the form `p = q`; rather, this should talk about `s.lineOrOrthRadius p p` (and be named `lineOrOrthRadius_self` or similar).
